US07964643B2
4′-Fluoro-2-methylbiphenyl-4-sulfonic acid-(4-hydroxybutyl)-amide (ABD-320)
Using a method analogous to that described in Example 40, 4-bromo-3-methylphenyl-sulfonic acid-(4-hydroxybutyl)-amide and 4-fluorophenyl boronic acid were reacted to give the title compound as a thick oil. δC (CDCl3, 62.9 MHz): 20.6, 26.4, 29.6, 43.1, 62.2, 115.4 (d, J 21.5), 124.5, 128.8, 130.5, 130.6, 136.1 (d, J 2.9), 136.9, 138.6, 145.3 and 162.4 (d, J 247.1).

reactant | 4-bromo-3-methylphenyl-sulfonic acid-(4-hydroxybutyl)-amide | OCCCCNS(=O)(=O)C1=CC(=C(C=C1)Br)C | C11H16BrNO3S
reactant | 4-fluorophenyl boronic acid | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
product | 4′-Fluoro-2-methylbiphenyl-4-sulfonic acid-(4-hydroxybutyl)-amide | OCCCCNS(=O)(=O)C1=CC(=C(C=C1)C1=CC=C(C=C1)F)C | C17H20FNO3S
